*$
*//-----------------------------------------------------------------------//
*//   Part No.    : APXN2R5ARA331ME61G
*//   Date        : 2018/02/16
*//   Update 	  : 2018/11/08 Corrected the SUBCKT
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2018 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT APXN2R5ARA331ME61G_20deg-C 1 2

C1 4 2 1.94e-04
C2 5 2 4.90e-05
C3 6 2 3.28e-05
R1 3 4 1.52e-02
R2 4 5 7.19e-02
R3 5 6 1.69e+00
L1 1 3 2.10e-09

.ENDS
*$
